Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ woman who presents for evaluation of 
altered mental status. She has a history of CVA with residual 
left upper and lower extremity motor weakness, as well as 
blindness. She resides at a skilled nursing facility. She was 
apparently in her usual state of health until yesterday. Her
sister, who is at bedside, reports that the patient made a 
nonsense statement to her but otherwise did not complain of any 
new physical pains. Does note that she has had decreased PO 
intake recently, including decreased fluid intake, though has 
been drinking some given that she enjoys the lemonade at the 
facility. 3 ___ ___ was her last known normal. On evaluation this 
morning, nursing aides noted her to be altered combative, 
agitated, and disoriented. On evaluation in the ED, the patient 
reported that she has had chest pain "for years," and stated she 
has had abdominal pain but cannot say for how long. She did not 
cooperate with questions about her name, orientation. She is 
unable to provide any further details of the history. Records 
from the ___ nursing facility were reviewed and were 
otherwise unrevealing. Of note the patient is on Plavix and 
enoxaparin.

Her labs were notable for mild hyponatremia and mild ___ 
suggestive of dehydration. Her LFTs were notable for mild 
elevation of T bili; right upper quadrant ultrasound was 
negative. Given her recent right CEA, vascular surgery was 
consulted, and obtained carotid Doppler ultrasound at their
recommendation. CT head was obtained which showed no acute 
hemorrhage or large territorial infarction, some evolving small 
vessel disease.

 
Past Medical History:
R carotid stenosis
stage III CKD
atrial fibrillation
alcoholic cirrhosis
DM
HTN
HLD
Stroke (left side hemiparesis, can wiggle toes on left but not 
move arm)
                      
Past Surgical History:
___: L carotid surgery
___: throat surgery
___ R knee replacement
Broken L wrist  
 
Social History:
___
Family History:
Mother and brother with heart disease
 
Physical Exam:
ADMISSION PHYSICAL:
===================
VS: ___ ___ Temp: 97.7 PO BP: 119/54 L Lying HR: 74 RR: 18
O2 sat: 95% O2 delivery: RA 
GENERAL: Somnolent, lying in bed, arousable to voice and tactile
stimuli. Blind.
HEENT: AT/NC, anicteric sclera, dry mucous membranes, pupils 
2mm,
sluggish but reactive ___
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: Clear bilaterally, some rhoncorous upper airway sounds
bilaterally
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly. No fluid wave, no
ascites appreciated on exam.
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert only to person, no to place or time. Not responding
in full sentences. Following commands. Cranial nerves intact
(though blind). Strength ___ ___nd ___ in LUE, though
difficult exam given somnolence. RLE ___ strength, LLE wiggling
toes but otherwise not moving. 

DISCHARGE PHYSICAL:
===================
Vital signs: wnl
GENERAL: In no acute distress.
CARDIAC: Regular rate and rhythm. Grade ___ systolic ejection
murmur.
LUNG: Clear to auscultation bilaterally. No crackles, wheezes, 
or
rhonchi.
ABD: Normal bowel sounds. Soft, nontender, nondistended.
EXT: Warm, well perfused. No lower extremity edema.
NEURO: Oriented to self and place (___) but not
to year or month ___. Knew it was her sister's birthday 
today. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:40AM   TYPE-MIX PO2-61* PCO2-49* PH-7.32* TOTAL 
CO2-26 BASE XS--1
___ 04:31AM   GLUCOSE-106* UREA N-35* CREAT-1.7* 
SODIUM-132* POTASSIUM-4.7 CHLORIDE-94* TOTAL CO2-25 ANION GAP-13
___ 04:31AM   ALT(SGPT)-9 AST(SGOT)-23 LD(LDH)-157 ALK 
PHOS-139* TOT BILI-1.6*
___ 04:31AM   ALBUMIN-3.5 CALCIUM-9.5 PHOSPHATE-4.6* 
MAGNESIUM-2.1 IRON-46
___ 04:31AM   calTIBC-215* FERRITIN-1318* TRF-165*
___ 04:31AM   TSH-21*
___ 04:31AM   T4-8.4
___ 04:31AM   WBC-8.1 RBC-3.07* HGB-9.8* HCT-29.1* MCV-95 
MCH-31.9 MCHC-33.7 RDW-15.1 RDWSD-52.6*
___ 04:31AM   ___ PTT-32.6 ___
___ 04:31AM   RET AUT-2.9* ABS RET-0.09
___ 08:06PM   CK(CPK)-164
___ 08:06PM   CK-MB-2 cTropnT-0.01
___ 08:06PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:06PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:06PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:30PM   LACTATE-1.4
___ 12:22PM   GLUCOSE-113* UREA N-32* CREAT-1.8* 
SODIUM-134* POTASSIUM-4.9 CHLORIDE-95* TOTAL CO2-23 ANION GAP-16
___ 12:22PM   ALT(SGPT)-10 AST(SGOT)-25 CK(CPK)-112 ALK 
PHOS-156* TOT BILI-1.6* DIR BILI-0.4* INDIR BIL-1.2
___ 12:22PM   LIPASE-24
___ 12:22PM   cTropnT-0.01
___ 12:22PM   ALBUMIN-3.8 CALCIUM-9.9 PHOSPHATE-4.7* 
MAGNESIUM-2.1
___ 12:22PM   WBC-8.8 RBC-3.30* HGB-10.7* HCT-31.2* MCV-95 
MCH-32.4* MCHC-34.3 RDW-15.2 RDWSD-53.1*
___ 12:22PM   NEUTS-60.7 ___ MONOS-6.5 EOS-8.8* 
BASOS-0.8 IM ___ AbsNeut-5.34 AbsLymp-1.98 AbsMono-0.57 
AbsEos-0.77* AbsBaso-0.07

DISCHARGE LABS:
===============
___ 05:05AM BLOOD WBC-7.4 RBC-3.00* Hgb-9.6* Hct-28.2* 
MCV-94 MCH-32.0 MCHC-34.0 RDW-15.0 RDWSD-51.7* Plt ___
___ 05:05AM BLOOD Glucose-106* UreaN-24* Creat-1.5* Na-140 
K-4.0 Cl-103 HCO3-21* AnGap-16

IMAGING:
========
___ EXAMINATION:  CHEST (PORTABLE AP)
FINDINGS:  
AP portable upright view of the chest.  The lungs appear 
slightly 
hyperinflated with upper lung lucency suggesting emphysema.  
There is no focal consolidation concerning for pneumonia.  No 
large effusion or pneumothorax. The heart is top-normal in size. 
 Mediastinal contour is normal. Imaged bony structures are 
intact. 

___ EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD
IMPRESSION:  
Incomplete nondiagnostic study, severely limited by patient 
motion 

___ EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN)
IMPRESSION: 
1. Cholelithiasis without evidence of cholecystitis.  No 
intrahepatic or 
extrahepatic biliary dilatation. 
2. Nodular and coarsened liver consistent with cirrhotic 
morphology.  
Splenomegaly.  No ascites. 

___ EXAMINATION:  Carotid Doppler Ultrasound
IMPRESSION:  
Less than 50% stenosis of the right ICA, according to ___ 
consensus findings. Exam was limited due to patient's altered 
mental status, preventing cooperation and imaging of the left 
common and internal carotid arteries.

___ EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD
IMPRESSION: 
1. No acute intracranial hemorrhage or acute large vascular 
territorial 
infarction. 
2. Unchanged encephalomalacia in the right parietoccipital lobe 
compatible 
with prior infarct. 
3. Increased right periventricular confluent white matter 
hypodensity likely represents worsening chronic small vessel 
ischemic disease.

___ EXAMINATION:  RENAL U.S.
IMPRESSION: 
1. Limited exam secondary to difficulty in patient positioning. 
2. No evidence of hydronephrosis. 
3. Simple appearing exophytic cyst at the lower pole of the 
right kidney. 
  

MICROBIOLOGY:
=============
__________________________________________________________
___ 8:06 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
PATIENT SUMMARY
================
___ with recent carotid endarterectomy admitted for altered 
mental status concerning for acute opioid intoxication. Mental 
status improved to baseline during hospitalization after holding 
opioids and other sedating medications. 

ACUTE ISSUES:
=============
#Acute toxic metabolic encephalopathy
Collateral history from patient's sister and ___ concerning for 
acute opioid intoxication. Held home opioids. Pt improved to 
near baseline. Recommend continuing to hold opioids. 

#Hypothyroidism
Elevated TSH but normal T4. Pt maintained on equivalent home 
levothyroxine dose throughout hospitalization.

___, resolved
Prerenal etiology ___ poor PO intake. Creatinine improved to 
baseline with fluid resuscitation. 

CHRONIC ISSUES:
===============
#R carotid stenosis s/p carotid endarterectomy
Carotid ultrasound imaging showed good flow through right 
carotid artery. Continued home plavix, atorvastatin, Lovenox 
40mg SQ daily

#Atrial fibrillation
In sinus rhythm during admission, though has a history of 
paroxysmal AF per CHA records with planned outpt cardiology. 
Continued home Lovenox 40mg SQ daily.

#Anemia
Asymptomatic, stable, baseline Hgb 10. Iron panel consistent 
with
anemia of chronic inflammation.

#T2DM: Maintained glycemic control with insulin sliding scale.
#HTN: Continued home ACE
#HLD: Continued home atorvastatin 80mg PO daily

TRANSITIONAL ISSUES:
====================
#Acute toxic metabolic encephalopathy
[]Encourage non-opioid and non-sedating therapies for treatment 
of chronic pain.

#Hypothyroidism
[]Elevated TSH suggests undertreatment of hypothyroidism. Will 
likely need titration of levothyroxine.

#Aortic arch aneurysm, <4cm
[] Needs follow up imaging ___

#Code:  full (presumed)
#Contact: Sister (___) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 80 mg PO DAILY 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Nicotine Patch 14 mg TD DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
7. TraZODone 50 mg PO QHS:PRN insomnia 
8. Pantoprazole 20 mg PO Q24H 
9. Lisinopril 2.5 mg PO DAILY 
10. Enoxaparin Sodium 40 mg SC Q24H 
11. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO/NG DAILY 
Start: ___, First Dose: Next Routine Administration Time  
3.  Atorvastatin 80 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Enoxaparin Sodium 40 mg SC Q24H  
6.  Levothyroxine Sodium 150 mcg PO DAILY  
7.  Lisinopril 2.5 mg PO DAILY  
8.  Nicotine Patch 14 mg TD DAILY  
9.  Pantoprazole 20 mg PO Q24H  
10.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
11. HELD- TraZODone 50 mg PO QHS:PRN insomnia  This medication 
was held. Do not restart TraZODone until  you talk to your 
primary care doctor
12 STOPPED - OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain 
- Moderate 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Acute toxic metabolic encephalopathy
-Hypothyroidism

SECONDARY DIAGNOSES:
-___
-Alcoholic cirrhosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for confusion.

What was done for me while I was in the hospital?  
- You were treated for confusion, which improved.
- We believe your confusion was caused by too many opioid 
medicines. 
- Your thyroid levels were normal. 

What should I do when I leave the hospital?  
- You should continue to take all medications as prescribed.

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___